US07825253B2
[5-(4-Fluoro-phenylsulfanyl)-quinolin-2-yl]-(5-methyl-furan-2-ylmethyl)-amine
The title compound, MS: m/e=365.0 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline (CAS 455955-26-7), 5-methyl-2-furanmethanamine and 4-fluorothiophenol.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 4-fluorothiophenol | FC1=CC=C(C=C1)S | C6H5FS
product | [5-(4-Fluoro-phenylsulfanyl)-quinolin-2-yl]-(5-methyl-furan-2-ylmethyl)-amine | FC1=CC=C(C=C1)SC1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C | C21H17FN2OS
